US04022777
To 240 ml of dry dimethylformamide warmed to 50° was added 3.5 parts of 6-chloro-2-ethyl-1H-imidazo[4,5-b]quinoxaline and 1.75 parts of triethylamine. The resulting solution was added, with stirring, to a 500 ml round-bottomed flask containing 3.3 parts of 1-formamido-1,2,2,2-tetrachloroethane and 45 parts of dry dimethylformamide at room temperature. After standing for 75 minutes, the clear solution was poured onto a mixture of 1500 parts of ice and water. The resulting solids were collected, washed with water and dried to give 4.6 parts of 6-chloro-2-ethyl-1-(1-formamido-2,2,2-trichloroethyl)-1H-imidazo[ 4,5-b]quinoxaline, decomposing at 109°.

reactant | dimethylformamide | 240 ml | CN(C=O)C | C3H7NO
reactant | 6-chloro-2-ethyl-1H-imidazo[4,5-b]quinoxaline | ClC=1C=C2N=C3C(=NC2=CC1)NC(=N3)CC | C11H9ClN4
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 1-formamido-1,2,2,2-tetrachloroethane | C(=O)NC(C(Cl)(Cl)Cl)Cl | C3H3Cl4NO
solvent | water | O | H2O
product | 6-chloro-2-ethyl-1-(1-formamido-2,2,2-trichloroethyl)-1H-imidazo[ 4,5-b]quinoxaline | ClC=1C=C2N=C3C(=NC2=CC1)N(C(=N3)CC)C(C(Cl)(Cl)Cl)NC=O | C14H11Cl4N5O
